US06013606
3-[4-Chloro-3-(2-chloro-2-methoxyaminocarbonylethenyl)phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (compound II.01)
Carbonyldiimidazole (0.9 g) was added to a solution of 3-[3-(2-carboxy-2-chloroethenyl)phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (2.1 g) in 80 ml of tetrahydrofuran, after which the mixture was stirred at 25° C. for one hour. Methoxyamine hydrochloride (1.67 g as a 30% strength by weight aqueous solution) and potassium carbonate (0.83 g), dissolved in 20 ml of tetrahydrofuran, were then added dropwise. After stirring for 5 hours, the solvent was distilled off, after which the residue was taken up in 150 ml of dichloromethane. The organic phase was washed twice with 30 ml each of water, twice with 30 ml each of 10% strength by weight sodium hydrogencarbonate solution and again with 30 ml of water, then dried over sodium sulfate and concentrated. After crystallization using petroleum ether, 1.5 g of the product were obtained; m.p.: 136-141° C.

reactant | Carbonyldiimidazole | 0.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-[3-(2-carboxy-2-chloroethenyl)phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 2.1 g | C(=O)(O)C(=CC=1C=C(C=CC1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)Cl | C15H10ClF3N2O4
reactant | Methoxyamine hydrochloride | Cl.CON
reactant | potassium carbonate | 0.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[4-Chloro-3-(2-chloro-2-methoxyaminocarbonylethenyl)phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 1.5 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=C(C(=O)NOC)Cl | C16H12Cl2F3N3O4
